US08048902B2
Synthesis of {3-Methyl-5-[4′-(2H-tetrazol-5-ylmethyl)-biphenyl-4-yl]-isoxazol-4-yl}-carbamic acid (R)-1-(2-chloro-phenyl)-ethyl ester (Compound 64)
Prepared as described in Example 45 using [5-(4′-cyanomethyl-biphenyl-4-yl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-chloro-phenyl)-ethyl ester and azidotrimethylsilane.

reactant | [5-(4′-cyanomethyl-biphenyl-4-yl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-chloro-phenyl)-ethyl ester | ClC1=C(C=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)CC#N)C)=O | C27H22ClN3O3
reactant | azidotrimethylsilane | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
product | {3-Methyl-5-[4′-(2H-tetrazol-5-ylmethyl)-biphenyl-4-yl]-isoxazol-4-yl}-carbamic acid (R)-1-(2-chloro-phenyl)-ethyl ester | ClC1=C(C=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N=NNN1)C)=O | C27H23ClN6O3
